US07547710B2
A mixture of 2-[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)-6-quinolinyl]-1,3-thiazole-4-carboxylic acid (0.27 g, 0.5 mmol), N,O-dimethylhydroxylamine hydrochloride (0.06 g, 0.6 mmol), ethyl-3(3-dimethylaminopropyl)carbodiimide hydrochloride (0.12 g, 0.6 mmol), 1-hydroxy-1H-benzotriazole (0.09 g, 0.6 mmol), triethylamine (0.08 ml, 0.6 mmol) and N,N-dimethylformamide (10 ml) was stirred at room temperature for 2 hrs. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was crystallized from diisopropyl ether to give tert-butyl {[2-isobutyl-6-(4-{[methoxy(methyl)amino]carbonyl}-1,3-thiazol-2-yl)-4-(4-methylphenyl)quinolin-3-yl]methyl}carbamate (0.24 g, yield 85%) as white crystals.

reactant | 2-[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)-6-quinolinyl]-1,3-thiazole-4-carboxylic acid | 0.5 mmol, 0.27 g | C(C)(C)(C)OC(=O)NCC=1C(=NC2=CC=C(C=C2C1C1=CC=C(C=C1)C)C=1SC=C(N1)C(=O)O)CC(C)C | C30H33N3O4S
reactant | N,O-dimethylhydroxylamine hydrochloride | 0.6 mmol, 0.06 g | Cl.CNOC
reactant | ethyl-3(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.6 mmol, 0.12 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxy-1H-benzotriazole | 0.6 mmol, 0.09 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 0.6 mmol, 0.08 ml | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | tert-butyl {[2-isobutyl-6-(4-{[methoxy(methyl)amino]carbonyl}-1,3-thiazol-2-yl)-4-(4-methylphenyl)quinolin-3-yl]methyl}carbamate | 0.24 g, yield 85% | C(C(C)C)C1=NC2=CC=C(C=C2C(=C1CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C)C=1SC=C(N1)C(=O)N(C)OC | C32H38N4O4S
